US06706703B2
1,4-Bis[5-(4-amino-3,5-dimethoxyphenyl)-2-pyridyl]hexahydro-1,4-diazepine Tetrahydrochloride
To a solution of 1,4-bis[5-(4-benzyloxycarbonylamino-3,5-dimethoxyphenyl)-2-pyridyl]hexahydro-1,4-diazepine (120.0 mg, 0.140 mmol) in acetic acid (2.0 mL) was added 10% palladium on charcoal (24.0 mg), and the resulting mixture was stirred at 50° C. for 1.5 hours under hydrogen. Insoluble materials were removed by filtration through Celite, and the filtrate was concentrated under reduced pressure. A solution of the residue in chloroform was washed with saturated aqueous sodium hydrogencarbonate and brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. To a solution of the residue in chloroform (5.0 mL) a 4.0 M solution of hydrogen chloride in ethyl acetate (0.14 mL, 0.56 mmol), and the resulting mixture was concentrated under reduced pressure. Ethanol (5.0 mL) was added to the residue, and the resulting mixture was concentrated under reduced pressure. Diethyl ether was added to the residue, and the resulting precipitate was collected by filtration to yield the title compound as a pale brown amorphous powder (84.0 mg, yield: 82%).

reactant | 1,4-bis[5-(4-benzyloxycarbonylamino-3,5-dimethoxyphenyl)-2-pyridyl]hexahydro-1,4-diazepine | 0.140 mmol, 120.0 mg | C(C1=CC=CC=C1)OC(=O)NC1=C(C=C(C=C1OC)C=1C=CC(=NC1)N1CCN(CCC1)C1=NC=C(C=C1)C1=CC(=C(C(=C1)OC)NC(=O)OCC1=CC=CC=C1)OC)OC | C47H48N6O8
reactant | hydrogen chloride | Cl | ClH
reactant | ethyl acetate | 0.56 mmol, 0.14 mL | C(C)(=O)OCC | C4H8O2
reactant | Ethanol | 5.0 mL | C(C)O | C2H6O
solvent | acetic acid | 2.0 mL | C(C)(=O)O | C2H4O2
catalyst | palladium on charcoal | 24.0 mg | [Pd] | Pd
solvent | chloroform | 5.0 mL | C(Cl)(Cl)Cl | CHCl3
product | 1,4-Bis[5-(4-amino-3,5-dimethoxyphenyl)-2-pyridyl]hexahydro-1,4-diazepine Tetrahydrochloride | 84.0 mg, yield: 82% | Cl.Cl.Cl.Cl.NC1=C(C=C(C=C1OC)C=1C=CC(=NC1)N1CCN(CCC1)C1=NC=C(C=C1)C1=CC(=C(C(=C1)OC)N)OC)OC | InChI=1S/C31H36N6O4.4ClH/c1-38-24-14-22(15-25(39-2)30(24)32)20-6-8-28(34-18-20)36-10-5-11-37(13-12-36)29-9-7-21(19-35-29)23-16-26(40-3)31(33)27(17-23)41-4;;;;/h6-9,14-19H,5,10-13,32-33H2,1-4H3;4*1H
